US05439917
2,3Dimethyl-7-(p-cyanophenacyl)pyrrolo[2,3-b]pyridine.
A solution of 2,3-dimethylpyrrolo[2,3-b]pyridine (146 mg, 1 mmol) and p-cyanophenacyl bromide (248 mg, 1.1 mmol) in 3 ml CH3CN was refluxed for 1.5 h. The mixture was allowed to cool and the precipitated product filtered off and washed with a small volume of ice cold CCl4 affording 313 mg (85%) pure title compound as the hydrobromide salt.

reactant | 2,3-dimethylpyrrolo[2,3-b]pyridine | 1 mmol, 146 mg | CC1=C(C=2C(=NC=CC2)N1)C | C9H10N2
reactant | p-cyanophenacyl bromide | 1.1 mmol, 248 mg | C(#N)C1=CC=C(C(CBr)=O)C=C1 | C9H6BrNO
solvent | CH3CN | 3 ml | CC#N | C2H3N
product | 2,3Dimethyl-7-(p-cyanophenacyl)pyrrolo[2,3-b]pyridine | CC1=C(C=2C(N(C=CC2)CC(=O)C2=CC=C(C=C2)C#N)=N1)C | C18H15N3O
